US04409220
2-Amino-3-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine hydrochloride
6 gm (31.3 mmols) of 2-amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine were dissolved in 100 ml of glacial acetic acid and, while cooling the solution with ice, chlorine was introduced until the thin-layer chromatogram showed that no more starting material was present. Thereafter, the reaction mixture was made alkaline with 2 N sodium hydroxide and was then extracted with chloroform. The chloroform extract solution was evaporated, and the residue was column-chromatographically purified on silicagel with ethyl acetate/methanol/ethanolic ammonia (4:1:0.5) as the mobile phase. The hydrochloride was precipitated from ethanol with ethanolic hydrochloric acid.

reactant | 2-amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | 31.3 mmols, 6 gm | NC=1C=NC2=C(CCN(CC2)CC)N1 | C10H16N4
reactant | chlorine | ClCl | Cl2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-3-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine hydrochloride | Cl.NC=1C(=NC2=C(CCN(CC2)CC)N1)Cl | InChI=1S/C10H15ClN4.ClH/c1-2-15-5-3-7-8(4-6-15)14-10(12)9(11)13-7;/h2-6H2,1H3,(H2,12,14);1H
